US07160888B2
Synthesis of 6-{5-[4-(5,6,7,8-Tetrahydro-naphthalen-1-yl)-piperazin-1-yl]-pentyl}-4H-pyrido[3,2-b][1,4]oxazin-3-one
6-{5-[4-(5,6,7,8-Tetrahydro-naphthalen-1-yl)-piperazin-1-yl]-pent-1-enyl}-4H-pyrido[3,2-b][1,4]oxazin-3-one (0.098 g, 0.226 mmol) was hydrogenated using Ra—Ni in THF for 16 hours. The reaction was filtered and concentrated to give an oil. Purification by chromatography on silica gel (0–5% MeOH/EtOAc) afforded the title compound as a film (0.059 g, 61%). This was dissolved in Et2O and 1M HCl in Et2O (1 equivalent) was added. The resulting precipitate was filtered and dried to give a white solid. MS: APCI: M+1: 435.5 (Exact Mass: 434.27).

reactant | 6-{5-[4-(5,6,7,8-Tetrahydro-naphthalen-1-yl)-piperazin-1-yl]-pent-1-enyl}-4H-pyrido[3,2-b][1,4]oxazin-3-one | 0.226 mmol, 0.098 g | C1(=CC=CC=2CCCCC12)N1CCN(CC1)CCCC=CC=1C=CC=2OCC(NC2N1)=O | C26H32N4O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | Ra—Ni | [Ni] | Ni
product | 6-{5-[4-(5,6,7,8-Tetrahydro-naphthalen-1-yl)-piperazin-1-yl]-pentyl}-4H-pyrido[3,2-b][1,4]oxazin-3-one | C1(=CC=CC=2CCCCC12)N1CCN(CC1)CCCCCC=1C=CC=2OCC(NC2N1)=O | C26H34N4O2
